US07456200B2
2-(4-Methyl-5-thiophen-2-yl-4H-[1,2,4]triazol-3-ylsulfanyl)-propionic acid
(R)-2-chloro-propionic acid (500 mg, 4.6 mmol), 4-methyl-5-thiophen-2-yl-4H-[1,2,4]triazole-3-thiol (1.09 g, 5.58 mmol) and potassium carbonate (1.94 g, 14.03 mmol) were dissolved in acetonitrile (15 ml) at room temperature. Reaction proceeded for 2.5 h and was partitioned between ethyl acetate (350 ml) and water 3 times, washed with 1 M HCl, once with saturated brine, dried over anhydrous sodium sulphate, filtered and concentrated in vacuo. Reaction was not completed at this stage and the crude was stirred in DMF (10 ml) overnight. Extraction was repeated and purification was performed by SPE (solid phase extraction) chromatography on silica gel using 300 ml ethyl acetate, 100 ml 1%, and 100 ml 3% formic acid in ethyl acetate, yielding title compound (150.7 mg, 12%) 1H-NMR (CDCl3), d (ppm): 7.52 (dd, 2H), 7.19 (m, 1H), 4.21 (q, 1H), 3.78 (s, 3H), 1.64 (d, 3H).

reactant | (R)-2-chloro-propionic acid | 4.6 mmol, 500 mg | Cl[C@@H](C(=O)O)C | C3H5ClO2
reactant | 4-methyl-5-thiophen-2-yl-4H-[1,2,4]triazole-3-thiol | 5.58 mmol, 1.09 g | CN1C(=NN=C1C=1SC=CC1)S | C7H7N3S2
reactant | potassium carbonate | 14.03 mmol, 1.94 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(4-Methyl-5-thiophen-2-yl-4H-[1,2,4]triazol-3-ylsulfanyl)-propionic acid | 150.7 mg, 12% | CN1C(=NN=C1C=1SC=CC1)SC(C(=O)O)C | C10H11N3O2S2
